US07612114B2
6-{2-{[4-(2-Azepan-1-ylethyl)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from {2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}ethylamine and 4-(2-azepan-1-ylethyl)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, 4-(2-azepan-1-ylethyl)benzyl]{2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}ethylamine (59 mg) was used according to an analogous synthetic method to Example 325 described below to provide the title compound (38 mg).

reactant | {2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}ethylamine | [Si](C)(C)(C(C)(C)C)OC=1C=C2CCC(CC2=CC1)C1=C(C=C(C=C1)OC)CCN | C25H37NO2Si
reactant | 4-(2-azepan-1-ylethyl)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCC1=CC=C(C(=O)O)C=C1
reactant | {2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}ethylamine | 59 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C2CCC(CC2=CC1)C1=C(C=C(C=C1)OC)CCN | C25H37NO2Si
product | 6-{2-{[4-(2-Azepan-1-ylethyl)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 38 mg | N1(CCCCCC1)CCC1=CC=C(CCCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=C1 | C34H44N2O2
